US08404687B2
(S)-tert-Butyl 4-(4-(4-cyanophenyl)phthalazin-1-yl)-3-methylpiperazine-1-carboxylate
Heat a mixture of (S)-tert-butyl 4-(4-chlorophthalazin-1-yl)-3-methylpiperazine-1-carboxylate (4.0 g, 11.0 mmol), 4-cyanophenylboronic acid (2.43 g, 16.5 mmol), cesium carbonate (14.4 g, 44.1 mmol), and (SP-4-1)-bis[bis(1,1-dimethylethyl)(4-methoxyphenyl)phosphine-κP]dichloro-palladium (J. Org. Chem. 2007, 72, 5104-5112) (75.4 mg, 0.11 mmol) in 1,4-dioxane (80 mL) and water (20 mL) at 90° C. overnight. Partition the reaction mixture between water and CH2Cl2. Extract the aqueous layer with CH2Cl2. Dry the combined organic layer over Na2SO4 and concentrate under reduced pressure. Purify the resulting residue by flash silica gel chromatography (gradient of 0 to 20% EtOAc in CH2Cl2) to provide the title compound as a light orange foam (4.46 g, 94%). ES/MS m/z 430.2 (M+1).

reactant | (S)-tert-butyl 4-(4-chlorophthalazin-1-yl)-3-methylpiperazine-1-carboxylate | 11.0 mmol, 4.0 g | ClC1=NN=C(C2=CC=CC=C12)N1[C@H](CN(CC1)C(=O)OC(C)(C)C)C | C18H23ClN4O2
reactant | 4-cyanophenylboronic acid | 16.5 mmol, 2.43 g | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
reactant | cesium carbonate | 44.1 mmol, 14.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 80 mL | O1CCOCC1 | C4H8O2
solvent | water | 20 mL | O | H2O
product | (S)-tert-Butyl 4-(4-(4-cyanophenyl)phthalazin-1-yl)-3-methylpiperazine-1-carboxylate | 4.46 g, 94% | C(#N)C1=CC=C(C=C1)C1=NN=C(C2=CC=CC=C12)N1[C@H](CN(CC1)C(=O)OC(C)(C)C)C | C25H27N5O2
